US04162246
Ethylene glycol bis[2hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]ether (Compound No. 166)
10.0 g of 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 3.0 g of ethylene glycol bis(2,3-epoxypropyl)ether and 0.1 g of potassium hydroxide were reacted in 60 ml of methanol, following substantially the same procedure as in Example 1. The desired Compound No. 166 was obtained in the form of white crystals, melting at 213°-215° C.

reactant | 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 10.0 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1C)(C)C)C | C12H21N3O2
reactant | ethylene glycol bis(2,3-epoxypropyl)ether | 3.0 g | O1C(COCCOCC2CO2)C1 | C8H14O4
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
solvent | methanol | 60 ml | CO | CH4O
product | Ethylene glycol bis[2hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]ether | OC(COCCOCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C32H56N6O8
